US05600008
A stirred solution of 10.4 g of 4-chloro-2-fluoro-5-methoxybenzaldehyde in 150 mL of anhydrous THF was cooled in a dry ice-acetone bath and treated with 35 mL of a 3M solution of methyl magnesium chloride in THF over a period of one minute. The ice bath was removed and the mixture allowed to warm to room temperature. After warming, the solution was slowly poured into ice water. The water slurry was extracted three times with diethyl ether, the ether extracts dried and concd to afford a crude oil. Crystallization from hexanes yielded 10.8 g (95.6%) of 4-chloro-2-fluoro-5-methoxy-α-methyl-benzenemethanol: mp 68.5°-69.5° C. This benzenemethanol intermediate was dissolved in 100 mL of acetone, cooled in an ice water bath and treated dropwise with 50 mL of freshly prepared Jones'reagent (prepared from 6.7 g of CrO3, 6 mL of H2SO4 and 50 mL of water), keeping the temperature below 10° C. After stirring for 2 hrs., the solution was diluted with water and extracted three times with methylene chloride. The organic extracts were dried and concd to give a crude product. Recrystallization from methanol yielded 9.66 g (90.3%) of 1-(4-chloro-2-fluoro-5-methoxyphenyl) ethanone as a white solid: mp 96.5-98.5 ° C.; 1HNMR (CDCl3) δ 2.50 (d, 3H, 5.4 Hz), 3.80 (s, 3H), 7.10 (d, 1H, 10.1 Hz), 7.30 (d, 1H, 6.3 Hz).

reactant | 4-chloro-2-fluoro-5-methoxybenzaldehyde | 10.4 g | ClC1=CC(=C(C=O)C=C1OC)F | C8H6ClFO2
reactant | methyl magnesium chloride | C[Mg]Cl
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | 4-chloro-2-fluoro-5-methoxy-α-methyl-benzenemethanol | 10.8 g, 95.6% | ClC1=CC(=C(C=C1OC)C(O)C)F | C9H10ClFO2
